US06747023B1
1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]-3-(ethyl)piperazine
To a methylene chloride solution (30 ml) of 2-ethylpiperazine hydrochloride (307 mg) was added (6-chlorobenzo[b]thien-2-yl)sulfonyl chloride (438 mg) and triethylamine (498 mg). The resulting mixture was stirred at room temperature for 26 hours. Distilled water and methylene chloride were added and the water layer was extracted three times. The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methanol:methylene chloride=1:20), whereby the title compound (255 mg) was obtained as a pale yellow oil. MS (FAB) m/z: 345 [(M+H)+, Cl35], 347 [(M+H)+, Cl37]. 1H-NMR (CDCl3) δ: 0.95(3H,t,J=7.8 Hz), 1.24-1.46(2H,m), 2.16(1H,t,J=10.7 Hz), 2.54(1H,dt,J=2.9,11.2 Hz), 2.65-2.75(1H,m), 2.95(1H,dt,J=2.9,11.2 Hz), 3.04-3.10(1H,m), 3.65-3.72(2H,m), 7.43(1H,dd,J=8.8,2.0 Hz), 7.75(1H,s), 7.81(1H,d,J=8.8 Hz), 7.86(1H,s).

reactant | 2-ethylpiperazine hydrochloride | 307 mg | Cl.C(C)C1NCCNC1
reactant | (6-chlorobenzo[b]thien-2-yl)sulfonyl chloride | 438 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
reactant | triethylamine | 498 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]-3-(ethyl)piperazine | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(NCC2)CC)C1 | C14H17ClN2O2S2
